US04207320
3-(1-Piperidinyl)-10-propylimidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide
A stirred mixture of 3.62 g. of 3-fluoro-10-propylimidazo[1,2-a:3,4-a']diquinolin-15-ium iodide, 20 ml. of dimethylformamide and 2.0 ml. of piperidine is heated at 72° C. for 94 hours, then evaporated at reduced pressure. The residue is dissolved in methanol along with 2.0 g. of triethylamine hydroiodide. The solution is diluted with water and the resulting precipitate is collected by filtration and suspended in 125 ml. of 0.5% triethylamine hydroiodide. The solid 3-(1-piperidinyl)-10-propylimidazo[1,2-a:3,4-a']diquinolin-15-ium iodide is collected by filtration, triturated with 2-propanol and dried; m.p. 148°-153° C.

reactant | 3-fluoro-10-propylimidazo[1,2-a:3,4-a']diquinolin-15-ium iodide | [I-].FC1=CC=2C=CC3=[N+](C2C=C1)C=C1N3C=3C=CC(=CC3C=C1)CCC
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-(1-Piperidinyl)-10-propylimidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide | [I-].N1(CCCCC1)C1=CC=2C=CC3=[N+](C2C=C1)C=C1N3C=3C=CC(=CC3C=C1)CCC | InChI=1S/C27H28N3.HI/c1-2-6-20-7-12-26-21(17-20)8-10-24-19-29-25-13-11-23(28-15-4-3-5-16-28)18-22(25)9-14-27(29)30(24)26;/h7-14,17-19H,2-6,15-16H2,1H3;1H/q+1;/p-1
